US06872718B1
2,3-Dihydro-5-hydroxy-2,4,7-trimethyl-1H-indole
To the solution of 1-(2,5-dimethoxy-3,6-dimethylphenyl)-2-propanamine (2.2 g, 9.4 mmol) in acetonitrile (10 ml) was added dropwise a solution of cerium (IV) diammonium nitrate (10.0 g, 18.2 mmol) in acetonitrile (20 ml) and water (20 ml) with cooling on ice, and stirred at room temperature for 2 hours. The reaction mixture was diluted with water, neutralized with sodium hydrogen carbonate, and extracted three times with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to obtain a solid. The solid was dissolved in ethyl acetate, combined with an aqueous solution of sodium hydrosulfite and shaken to precipitate a solid, which was collected by filtration to obtain 1.2 g of the title compound.

reactant | 1-(2,5-dimethoxy-3,6-dimethylphenyl)-2-propanamine | 9.4 mmol, 2.2 g | COC1=C(C(=C(C=C1C)OC)C)CC(C)N | C13H21NO2
reactant | cerium (IV) diammonium nitrate | 18.2 mmol, 10.0 g | [N+](=O)([O-])[O-].[NH4+].[NH4+].[Ce+4].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-5-hydroxy-2,4,7-trimethyl-1H-indole | 1.2 g, Yield: 68% | OC=1C(=C2CC(NC2=C(C1)C)C)C | C11H15NO
